US07790724B2
a) 2-(4,4-Dimethyl-cyclohex-1-enyl)-3-nitro-pyridine
A solution of 894 mg (3.78 mmol) of 4,4-dimethyl-cyclohex-1-enylboronic acid and 0.500 g (3.15 mmol) of 2-chloro-3-nitro-pyridine in toluene (20 mL) and EtOH (10 mL) was treated with 12.6 mL (25.2 mmol) of 2.0 M aqueous Na2CO3. The mixture was degassed via sonication, placed under Ar, treated with 364 mg (0.315 mmol) of Pd(PPh3)4, and heated to 80° C. for 2 h. The mixture was cooled to RT, diluted with EtOAc (50 mL), and washed with saturated aqueous NaHCO3 (1×40 mL) and water (1×40 mL). The aqueous layer was extracted with EtOAc (40 mL), and the combined organic layers were dried (MgSO4) and concentrated in vacuo. Silica gel chromatography of the residue with CH2Cl2 afforded 446 mg (61%) of the title compound as a yellow solid: 1H-NMR (CDCl3; 400 MHz): δ 8.73 (dd, 1H, J=4.8, 1.6 Hz), 8.02 (dd, 1H, J=8.4, 1.6 Hz), 7.32 (m, 1H), 5.83 (sept, 1H, J=2.0 Hz), 2.50-2.44 (m, 2H), 1.98-1.93 (m, 2H), 1.56 (t, 2H, J=6.0 Hz), 1.00 (s, 6H).

reactant | 4,4-dimethyl-cyclohex-1-enylboronic acid | 3.78 mmol, 894 mg | CC1(CC=C(CC1)B(O)O)C | C8H15BO2
reactant | 2-chloro-3-nitro-pyridine | 3.15 mmol, 0.500 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | Na2CO3 | 25.2 mmol, 2.0 M, 12.6 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 0.315 mmol, 364 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4,4-Dimethyl-cyclohex-1-enyl)-3-nitro-pyridine | 446 mg, 61% | CC1(CC=C(CC1)C1=NC=CC=C1[N+](=O)[O-])C | C13H16N2O2
